US20010014751A1
0.29 g (1.19 mmol) of bis(2-indenyl)methane, prepared as described above, were dissolved in 40 ml ether and cooled to −78° C. Then 1.6 ml of a 1.6 M solution of n-BuLi in hexane (2.1 equivalents) were added by syringe. It was allowed to warm to room temperature. After 90 minutes at room temperature it was cooled to −78° C. and 0.29 g ZrCl4, suspended in 30 ml Et2O, was added. On allowing to warm to room temperature and stirring for 2 hours, the color changed from brown to yellowish. The solvent was removed under vacuum and the powder washed with Et2O and then hexane to give 300 mg of methylene-bis(2-indenyl)zirconium dichloride as a yellow powder.

reactant | bis(2-indenyl)methane | 1.19 mmol, 0.29 g | C1C(=CC2=CC=CC=C12)CC=1CC2=CC=CC=C2C1 | C19H16
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 2.1 equivalents | CCCCCC | C6H14
reactant | ZrCl4 | 0.29 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | ether | 40 ml | CCOCC | C4H10O
reactant | Et2O | 30 ml | CCOCC | C4H10O
product | methylene-bis(2-indenyl)zirconium dichloride | 300 mg | [Cl-].[Cl-].C=[Zr+2](C=1CC2=CC=CC=C2C1)C=1CC2=CC=CC=C2C1 | InChI=1S/2C9H7.CH2.2ClH.Zr/c2*1-2-5-9-7-3-6-8(9)4-1;;;;/h2*1-2,4-6H,7H2;1H2;2*1H;/q;;;;;+2/p-2
